US07482336B2
Step G: Benzyl [8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-yl]carbamate
A stirred solution of trans 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylic acid (500 mg, 1.29 mmol) in toluene (20 mL) was treated with diphenylphosphoryl azide (0.33 mL, 1.55 mmol), triethylamine (0.22 mL, 1.55 mmol) and anhydrous benzyl alcohol (0.33 mL, 3.2 mmol) at room temperature under a nitrogen atmosphere. After heating at 90° C. for 2 days, the reaction mixture was evaporated under reduced pressure and the residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic phase was dried over anhydrous sodium sulfate and evaporated to yield the crude product which was purified by chromatography on a Biotage® system (silica gel, ethyl acetate in hexanes gradient 25-40%) to yield the title compound.

reactant | trans 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylic acid | 1.29 mmol, 500 mg | FC1=C(C=C(C(=C1)F)F)[C@H]1[C@@H](CC2(OCCO2)CC1)C(=O)O | C15H15F3O4
reactant | diphenylphosphoryl azide | 1.55 mmol, 0.33 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.55 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 3.2 mmol, 0.33 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Benzyl [8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-yl]carbamate | FC1=C(C=C(C(=C1)F)F)C1C(CC2(OCCO2)CC1)NC(OCC1=CC=CC=C1)=O | C22H22F3NO4
